US07407955B2
1-[(2-cyano-benzofuran-3-yl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-xanthine
A mixture of 215 mg of 1-{2-[2-cyanomethoxy-phenyl]-2-oxo-ethyl}-3-methyl-7-(2-butyn-1-yl)-8-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-xanthine and 244 mg of caesium carbonate in 4 ml of N,N-dimethylformamide is stirred for two hours at 50° C., then a further three hours at 70° C. For working up the reaction mixture is combined with water and the precipitate formed is suction filtered and dried.

reactant | 1-{2-[2-cyanomethoxy-phenyl]-2-oxo-ethyl}-3-methyl-7-(2-butyn-1-yl)-8-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-xanthine | 215 mg | C(#N)COC1=C(C=CC=C1)C(CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)N1CC(CCC1)NC(=O)OC(C)(C)C)C)=O | C30H35N7O6
reactant | caesium carbonate | 244 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 1-[(2-cyano-benzofuran-3-yl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-xanthine | C(#N)C=1OC2=C(C1CN1C(=O)N(C=3N=C(N(C3C1=O)CC#CC)N1CC(CCC1)NC(=O)OC(C)(C)C)C)C=CC=C2 | C30H33N7O5
